US06841671B2
To a solution of 1-[6-(4-hydroxymethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.80 g, 1.9 mmol) in 9.4 mL of methylene chloride was added triethylamine (0.46 mL, 0.33 g, 3.3 mL). After cooling to −40° C., the mixture was treated with methanesulfonyl chloride (0.20 mL, 0.30 g, 2.61 mmol). After stirring for 1 hour, an additional 0.10 mL of methanesulfonyl chloride and 0.4 mL of triethylamine were added, and stirring was continued for 1 hour. A solution of anhydrous lithium bromide (1.6 g, 19 mmol, flame dried under vacuum before use) in tetrahydrofuran (20 mL) was added via cannula, and the mixture was warmed to room temperature and stirred for 2 hours. The mixture was diluted with ethyl acetate, and the organic phase was washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was filtered through a pad of silica gel eluting with 1:1 ethyl acetate-hexanes, affording 0.65 g of 1-[6-(4-bromomethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester as a colorless syrup. 1H NMR (CDCl3, 500 MHz): 8.07 (d, 1H, J=3.0 Hz), 7.76 (dd, 1H, J=2.5, 8.5 Hz), 7.44 (d, 2H, J=8.5 Hz), 7.12 (d, 2H, J=8.0 Hz), 6.95 (d, 1H, J=9.0 Hz), 4.53 (s, 2H), 4.22 (q, 4H, J=7.0 Hz), 2.75 (m, 2H), 1.20 (t, 6H, J=7.0 Hz) ppm.

reactant | 1-[6-(4-hydroxymethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 1.9 mmol, 0.80 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CO)C(=O)OCC | C22H24N2O7
reactant | triethylamine | 0.46 mL, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.61 mmol, 0.20 mL, 0.30 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | lithium bromide | 19 mmol, 1.6 g | [Br-].[Li+]
solvent | methylene chloride | 9.4 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[6-(4-bromomethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.65 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CBr)C(=O)OCC | C22H23BrN2O6
